US08729061B2
(2S,3S)-3-Amino-2-hydroxy-N-(2,2,2-trifluoroethyl)hexanamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide, Representative Procedure B, using (S)-2-aminopentanoic acid in the first step (step B1), and 2,2,2-trifluoro-ethylamine in the seventh step (step B7).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CC | C8H16N2O2
reactant | (S)-2-aminopentanoic acid | N[C@H](C(=O)O)CCC | C5H11NO2
reactant | 2,2,2-trifluoro-ethylamine | FC(CN)(F)F | C2H4F3N
product | (2S,3S)-3-Amino-2-hydroxy-N-(2,2,2-trifluoroethyl)hexanamide | N[C@H]([C@@H](C(=O)NCC(F)(F)F)O)CCC | C8H15F3N2O2
